US08729112B2
5-(Chloromethyl)-5-methylpyrrolidin-2-one
A 50 mL flask was charged with 5-(hydroxymethyl)-5-methylpyrrolidin-2-one (646 mg, 5 mmol), purged with nitrogen, and dry 1,2-dichloroethane (10 mL) and pyridine (1.8 mL, 22.5 mmol, 4.5 equiv.) were added. Neat thionyl chloride (1.8 mL, 25 mmol, 5 equiv.) was added dropwise over 10 min, during which the suspension clarified briefly before becoming a thick slurry. The mixture was stirred at room temperature for 30 min, then heated to reflux. After 3.5 h, the cooled mixture was concentrated to an orange semi-solid, which was absorbed on silica. Chromatography on silica (50-100% EtOAc/hexane) afforded the title compound as a colorless oil which solidified on standing (383 mg, 52%). 1H NMR (400 MHz, CDCl3) δ 6.48 (br s, 1H), 3.52 (s, 2H), 2.56-2.41 (m, 2H), 2.15 (ddd, J=6.0, 9.4, 15.4 Hz, 1H), 1.98 (ddd, J=7.9, 9.4, 17.3 Hz, 1H), 1.42 (s, 3H); LRMS (ESI/APCI): 148 [M+H]+.

reactant | 5-(hydroxymethyl)-5-methylpyrrolidin-2-one | 5 mmol, 646 mg | OCC1(CCC(N1)=O)C | C6H11NO2
reactant | pyridine | 22.5 mmol, 1.8 mL, 4.5 equiv. | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 25 mmol, 1.8 mL, 5 equiv. | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 5-(Chloromethyl)-5-methylpyrrolidin-2-one | ClCC1(CCC(N1)=O)C | C6H10ClNO
